US07501430B2
18a: Preparation of 1-(3-{5-[2-({(3R)-1-[(4-chlorophenyl)sulfonyl]piperidin-3-yl}amino)pyrimidin-4-yl]imidazo[2,1-b][1,3]thiazol-6-yl}phenyl)ethanone
To a solution of 3-(5-{2-[(R)-1-(4-chloro-benzenesulfonyl)-piperidin-3-ylamino]-pyrimidin-4-yl}-imidazo[2,1-b]thiazol-6-yl)-N-methoxy-N-methyl-benzamide (0.10 g, 0.157 mmol) in anhydrous tetrahydrofuran (THF) (3.0 mL) at 0° C. was added a solution of methyl magnesium chloride (3.0 M in THF) (0.523 mL, 1.57 mmoL). The mixture was stirred for 3 hours, then quenched with saturated aqueous ammonium chloride solution (1 mL). Product was extracted with 10 mL of dichloromethane, washed with water (5 mL×2), dried over sodium sulfate and concentrated. Product was purified by flash chromatography on silica gel (40% dichloromethane in ethyl acetate) to afford 0.085 g (91%) of the title compound as a pale yellow solid. M.p.=124-127° C. 400 MHz 1H NMR (DMSO-d6 at 60° C.) δ: 8.70 (br. s, 1H), 8.17 (m, 1H), 8.12 (d, J=5.6 Hz, 1H), 7.9 (d, J=7.6 Hz, 1H), 7.86-7.84 (m, 1H), 7.77-7.74 (m, 2H), 7.67-7.65 (m, 2H), 7.62 (t, J=8.0 Hz, 1H), 7.42 (d, J=4.8 Hz, 1H), 7.15 (d, J=7.6 Hz, 1H), 6.38 (d, J=5.2 Hz, 1H), 3.93 (bs, 1H), 3.74-3.72 (m, 1H), 3.48-3.45 (m, 1H), 2.57 (s, 3H), 2.49-2.45 (m, 1H), 2.32 (t, J=10.4 Hz, 1H), 1.90-1.82 (m, 2H), 1.59-1.56 (m, 1H), 1.39-1.32 (m, 1H); LCMS: 594 [M+H].

reactant | 3-(5-{2-[(R)-1-(4-chloro-benzenesulfonyl)-piperidin-3-ylamino]-pyrimidin-4-yl}-imidazo[2,1-b]thiazol-6-yl)-N-methoxy-N-methyl-benzamide | 0.157 mmol, 0.10 g | ClC1=CC=C(C=C1)S(=O)(=O)N1C[C@@H](CCC1)NC1=NC=CC(=N1)C1=C(N=C2SC=CN21)C=2C=C(C(=O)N(C)OC)C=CC2 | C29H28ClN7O4S2
reactant | methyl magnesium chloride | 3.0 M, 0.523 mL | C[Mg]Cl
solvent | tetrahydrofuran | 3.0 mL | O1CCCC1 | C4H8O
product | 1-(3-{5-[2-({(3R)-1-[(4-chlorophenyl)sulfonyl]piperidin-3-yl}amino)pyrimidin-4-yl]imidazo[2,1-b][1,3]thiazol-6-yl}phenyl)ethanone | 0.085 g, 91% | ClC1=CC=C(C=C1)S(=O)(=O)N1C[C@@H](CCC1)NC1=NC=CC(=N1)C1=C(N=C2SC=CN21)C=2C=C(C=CC2)C(C)=O | C28H25ClN6O3S2
